US08809356B2
Step 5: 2-[(1R,2S)-5-chloro-2-hydroxy-2,3-dihydro-1H-inden-1-yl]-1H-isoindole-1,3(2H)-dione (6)
In a 1 L round bottom flask, N,N-diisopropylethylamine (15.2 mL, 0.0871 mol) was added to a suspension of (1S,2R)-1-amino-5-chloroindan-2-ol (16.0 g, 0.0871 mol) and phthalic anhydride (14.2 g, 0.0958 mol) in toluene (473 mL, 4.44 mol), and the reaction mixture was heated at reflux for 18 hours. The reaction was cooled to room temperature, at which point a large amount of solid precipitated. The solid, which was the desired product, was filtered, rinsed with EtOAc and collected. The filtrate was cooled to 0° C., filtered and the solid was rinsed with EtOAc and combined with the first batch. The filtrate was transferred to a separatory funnel and diluted with H2O (200 mL). The layers were separated, and the aqueous layer was extracted EtOAc (3×200 mL). The combined organic layers were washed 1× brine (100 mL), dried over MgSO4, filtered, and concentrated in vacuo. The resulting off-white solid was suspended in EtOAc, the large chunks were broken up with sonication, and the suspension was cooled to 0° C. The solid was filtered and combined with the previous 2 batches. The filtrate was concentrated in vacuo, and the resultant white solid was suspended one final time in Et2O (100 mL), filtered and combined with the previous 3 batches. The total yield of all four batches of solid was 25.3 g (92%). LCMS: (FA) ES+ molecular ion 314, major ionization 167; 1H NMR (400 MHz, DMSO) δ 7.83 (s, 4H), 7.33 (s, 1H), 7.27 (d, J=8.2, 1H), 7.19 (dd, J=2.0, 8.1, 1H), 5.52 (d, J=7.4, 1H), 5.34 (d, J=5.2, 1H), 4.64 (dt, J=6.9, 12.7, 1H), 3.21 (dd, J=7.4, 16.1, 1H), 3.02 (dd, J=6.1, 16.1, 1H).

reactant | N,N-diisopropylethylamine | 0.0871 mol, 15.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (1S,2R)-1-amino-5-chloroindan-2-ol | 0.0871 mol, 16.0 g | N[C@@H]1[C@@H](CC2=CC(=CC=C12)Cl)O | C9H10ClNO
reactant | phthalic anhydride | 0.0958 mol, 14.2 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | toluene | 4.44 mol, 473 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(1R,2S)-5-chloro-2-hydroxy-2,3-dihydro-1H-inden-1-yl]-1H-isoindole-1,3(2H)-dione | ClC=1C=C2C[C@@H]([C@@H](C2=CC1)N1C(C2=CC=CC=C2C1=O)=O)O | C17H12ClNO3
